US09376417B2
A dry Schlenk vessel was initially charged with 171 mg [1 mmol] of 4-bromotoluene, 1056 mg [6.6 mmol] of diethyl malonate, 2.88 mg [0.005 mmol] of Pd(dba)2, 3.19 mg [0.011 mmol] of P(tert-Bu)3×HBF4, 594 mg [2.8 mmol] of dried K3PO4 and 132 mg [0.5 mmol] of 18-crown-6. The reaction vessel was three times evacuated and filled with nitrogen. This was followed by stirring at 160° C. until completion of conversion (8 to 12 hours). After cooling to room temperature, the reaction mixture was diluted with ethyl acetate. The resulting solution was washed successively with 20 ml each of water, saturated aq. NaHCO3 solution and saturated aq. NaCl solution, dried over MgSO4, filtered and concentrated under reduced pressure. Chromatographic purification using silica gel (hexane/ethyl acetate) gave ethyl 4-methylphenylacetate in a yield of 88% of theory.

reactant | 4-bromotoluene | 1 mmol, 171 mg | BrC1=CC=C(C=C1)C | C7H7Br
reactant | diethyl malonate | 6.6 mmol, 1056 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | P(tert-Bu)3 | 0.011 mmol, 3.19 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | K3PO4 | 2.8 mmol, 594 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 18-crown-6 | 0.5 mmol, 132 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
catalyst | Pd(dba)2 | 0.005 mmol, 2.88 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | ethyl 4-methylphenylacetate | yield of 88% | CC1=CC=C(C=C1)CC(=O)OCC | C11H14O2
